US07495007B2
In a manner similar to the method described in example 102a, triethyl 2-phosphonobutyrate (25.2 g, 0.1 mol) was reacted with NaH (2.64 g, 0.11 mol), and then acetone (5.8 g, 0.1 mol) in dimethoxyethane to give 2-ethyl-3-methyl-but-2-enoic acid ethyl ester as colorless oil (Yield: 11.4 g, 73%).

reactant | triethyl 2-phosphonobutyrate | 0.1 mol, 25.2 g | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | NaH | 0.11 mol, 2.64 g | [H-].[Na+]
reactant | acetone | 0.1 mol, 5.8 g | CC(=O)C | C3H6O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-ethyl-3-methyl-but-2-enoic acid ethyl ester | Yield: 11.4 g, 73% | C(C)OC(C(=C(C)C)CC)=O | C9H16O2
